US05334716
A mixture of (4-bromo-2-fluorobenzyl)triphenylphosphonium bromide (3.82 g) and potassium t-butoxide (786 mg) was stirred at room temperature for 30 minutes. Then acetone (1.0 ml) was added and the reaction mixture was heated at reflux for 40 hours. The mixture was filtered, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with water and brine, dried over magnesium sulfate and the solvent was evaporated. The residue was chromatographed on silica gel column eluting with hexane to give 1-(4-bromo-2-fluorophenyl)-2-methyl-1-propene (0.70 g) as an oil.

reactant | (4-bromo-2-fluorobenzyl)triphenylphosphonium bromide | 3.82 g | [Br-].BrC1=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F
reactant | potassium t-butoxide | 786 mg | CC(C)([O-])C.[K+]
solvent | acetone | 1.0 ml | CC(=O)C | C3H6O
product | 1-(4-bromo-2-fluorophenyl)-2-methyl-1-propene | 0.70 g | BrC1=CC(=C(C=C1)C=C(C)C)F | C10H10BrF
